US04011225
2-Methyl-5,6,7,8-tetrahydroquinoline-8-carboxamide was treated with P2S5 to give 2-methyl-8-cyano-5,6,7,8-tetrahydroquinoline which was treated with H2S (both reactions being carried out by a method described in Example 8 to give the title compound as colourless needles from ethylacetate (28%) m.p. 98° (Found: C, 64.32; H, 6.93; N, 13.52%, C11H14N2S requires: C, 64.04; H, 6.84; N, 13.58%).

reactant | 2-Methyl-5,6,7,8-tetrahydroquinoline-8-carboxamide | CC1=NC=2C(CCCC2C=C1)C(=O)N | C11H14N2O
reactant | P2S5 | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
product | 2-methyl-8-cyano-5,6,7,8-tetrahydroquinoline | CC1=NC=2C(CCCC2C=C1)C#N | C11H12N2
